Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left knee pain
 
Major Surgical or Invasive Procedure:
left TKA

 
History of Present Illness:
___ y/o M with left knee OA, here for elective left TKA with Dr. 
___.
 
Past Medical History:
dyslipidemia, Bell's palsy
 
Social History:
___
Family History:
n/c
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
* Incision healing well with Aquacel dressing c/d/i  
* Thigh full but soft  
* No calf tenderness  
* ___ strength  
* SILT, NVI distally  
* Toes warm

 
Pertinent Results:
___ 07:25AM BLOOD Hgb-10.5* Hct-31.9*
___ 07:50AM BLOOD Hgb-11.9* Hct-35.9*
___ 07:20AM BLOOD Hgb-12.4* Hct-37.0*
___ 07:25AM BLOOD Creat-1.0
___ 01:15PM BLOOD Creat-1.4*
___ 07:50AM BLOOD Creat-1.3*
___ 07:20AM BLOOD Creat-1.1
___ 04:32PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:32PM URINE Blood-TR* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 04:32PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 04:32PM URINE Mucous-RARE*
 
Brief Hospital Course:
The patient was admitted to the Orthopaedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Postoperative course was remarkable for the following:
POD #1, patient was straight cathetherized x 1 due to urinary 
retention. He was voiding independently after.
POD #2, patient was given 500ml fluid bolus for soft blood 
pressures. Creatinine was 1.3. Toradol was discontinued. Repeat 
creatinine in the afternoon was 1.4 and patient was given 
additional 500ml fluid bolus. He was encouraged to increase PO 
fluid intake. Patient had a fever to 101 in the afternoon with 
tachycardia (HR 110s). A fever work-up was obtained. Urinalysis 
was negative. Chest x-ray showed no evidence of pneumonia. Blood 
cultures were pending at the time of discharge and patient will 
be contacted if further treatment is needed. 
POD #3, creatinine downtrended to 1.0.

Otherwise, pain was controlled with a combination of IV and oral 
pain medications.  The patient received Aspirin 81 mg twice 
daily for DVT prophylaxis starting on the morning of POD#1.  The 
Aquacel dressing remained clean and intact without erythema or 
abnormal drainage/saturation. The patient was seen daily by 
physical therapy. Labs were checked throughout the hospital 
course and repleted accordingly. At the time of discharge, the 
patient was tolerating a regular diet and feeling well.  The 
patient was afebrile with stable vital signs.  The patient's 
hematocrit was acceptable and pain was adequately controlled on 
an oral regimen. The operative extremity was neurovascularly 
intact.

The patient's weight-bearing status is weight bearing as 
tolerated on the operative extremity. Please use walker or 2 
crutches for as long as you need. They physical therapist will 
help guide you until you are safe to wean from assistive 
devices.
  
The patient is discharged to home with services in stable 
condition.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. meloxicam 15 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Aspirin EC 81 mg PO BID  
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain 
5.  Pantoprazole 40 mg PO Q24H  
6.  Senna 8.6 mg PO BID  
7. HELD- meloxicam 15 mg oral DAILY  This medication was held. 
Do not restart meloxicam until you've been cleared by your 
surgeon

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
left knee OA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
  
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
  
3. Resume your home medications unless otherwise instructed.
  
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeon’s office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
  
5. You may not drive a car until cleared to do so by your 
surgeon.
  
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment.
  
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. You may wrap the knee with an ace bandage 
for added compression.
  
8. ANTICOAGULATION: Please continue your Aspirin 81mg twice 
daily with food for four (4) weeks to help prevent deep vein 
thrombosis (blood clots).  Continue Pantoprazole daily while on 
Aspirin to prevent GI upset (x 4 weeks).  If you were taking 
Aspirin prior to your surgery, take the 81 mg twice daily until 
the end of the 4 weeks, then you can go back to your normal 
dosing.  
  
9. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower after surgery while wearing your aquacel 
dressing, but no tub baths, swimming, or submerging your 
incision until after your first checkup and cleared by your 
surgeon. After the aquacel dressing is removed 7 days after your 
surgery, you may leave the wound open to air. Check the wound 
regularly for signs of infection such as redness or thick yellow 
drainage and promptly notify your surgeon of any such findings 
immediately. 

10. ___ (once at home): Home ___, Aquacel removal POD#7, and 
wound checks.
  
11. ACTIVITY: Weight bearing as tolerated on the operative 
extremity. Use two crutches or a walker for as long as you need. 
The physical therapist will help guide you until you are safe to 
wean from assistive devices. Mobilize often.  Range of motion as 
tolerated. No strenuous exercise or heavy lifting until cleared. 


Physical Therapy:
___ operative extremity 
ROMAT
Mobilize frequently
Wean assistive devices as able

Treatments Frequency:
remove aquacel POD#7 after surgery
apply dry sterile dressing daily if needed after aquacel 
dressing is removed
wound checks daily after aquacel removed

 
Followup Instructions:
___